US04107326
1-Benzyl-3-(2,6-dichlorobenzylideneamino)guanidine hydrochloride
To a solution of 2.00 g. of 1-benzyl-3-(2,6-dichlorobenzylideneamino)guanidine in 40 ml. of absolute ethanol is added 20 ml. of 3.75 N hydrogen chloride in isopropyl alcohol. The mixture is evaporated under reduced pressure, giving the desired product as a colorless solid, m.p. 58°-68° C.

reactant | 1-benzyl-3-(2,6-dichlorobenzylideneamino)guanidine | C(C1=CC=CC=C1)NC(=N)NN=CC1=C(C=CC=C1Cl)Cl | C15H14Cl2N4
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | 3.75 N | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-Benzyl-3-(2,6-dichlorobenzylideneamino)guanidine hydrochloride | Cl.C(C1=CC=CC=C1)NC(=N)NN=CC1=C(C=CC=C1Cl)Cl | InChI=1S/C15H14Cl2N4.ClH/c16-13-7-4-8-14(17)12(13)10-20-21-15(18)19-9-11-5-2-1-3-6-11;/h1-8,10H,9H2,(H3,18,19,21);1H
